2163-10-22 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -started on cefepime and cipro in addition to vanc for coverage of
   pseudomonas given pseudomonas hx
   -continued spikes so was pancultured
   -PICC placed
   -prednisone course titrated up to 60 mg
   -tube feeds started
   -H2 blocker started
   -fentanyl/versed switched to propofol, but
   -BPs still low on propofol, getting increasingly agitated, got 500 cc
   bolus X 2, attempts to switch to pressure support, increasing
   respiratory distress, switched back to ASSIST and restarted on
   fentanyl/versed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2163-10-21**] 08:00 AM
   Vancomycin - [**2163-10-21**] 09:00 PM
   Ciprofloxacin - [**2163-10-21**] 10:00 PM
   Cefipime - [**2163-10-22**] 12:37 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2163-10-21**] 08:11 PM
   Midazolam (Versed) - [**2163-10-21**] 08:11 PM
   Heparin Sodium (Prophylaxis) - [**2163-10-21**] 08:29 PM
   Famotidine (Pepcid) - [**2163-10-22**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-10-22**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 75 (75 - 121) bpm
   BP: 90/71(76) {87/45(56) - 117/71(86)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,951 mL
                                                                    765 mL
   PO:
                                                                    220 mL
             TF:
                                                                     60 mL
                                                                     81 mL
   IVF:
                                                                  1,571 mL
                                                                    684 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    870 mL
   Urine:
                                                                  1,155 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,796 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.46/53/122/36/12
   Ve: 7.4 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   7.3 g/dL
   106 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.2 mEq/L
   10 mg/dL
   93 mEq/L
   130 mEq/L
   24.7 %
   13.8 K/uL
        [image002.jpg]
                            [**2163-10-21**]  12:34 AM
                            [**2163-10-21**]  01:34 AM
                            [**2163-10-21**]  04:56 AM
                            [**2163-10-21**]  05:42 AM
                            [**2163-10-21**]  10:15 PM
                            [**2163-10-22**]  03:09 AM
                            [**2163-10-22**]  03:20 AM
   WBC
   10.2
   13.8
   Hct
   26.3
   24.7
   Plt
   383
   334
   Cr
   0.6
   0.6
   TropT
   0.03
   0.02
   TCO2
   47
   46
   41
   39
   Glucose
   109
   106
   Other labs: PT / PTT / INR:12.4/29.2/1.0, CK / CKMB /
   Troponin-T:74/8/0.02, Differential-Neuts:93.9 %, Lymph:3.4 %, Mono:2.5
   %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   Mr [**Known lastname 3954**] is a 68 yo M with hx of COPD on 3L O2, CAD s/p cardiac
   arrest, lung CA s/p RUL resection/chemo/radiation, trachemalacia s/p
   tracheal stent replacement last week, presents from OSH for several
   days SOB. Found to be in hypercapneic respiratory failure.
   .
   #. Respiratory Distress:   Differential is pneumonia versus COPD.  CXR
   concerning for left upper pneumonia.
   -Started on cefepime in addition to cipro and vancomycin
   -Continue higher dose of prednisone 60 mg daily w/ taper
   -Barrier to extubation is sedation, was increasingly agitated last
   night and restarted on versed+fentanyl; attempt to wean sedation off to
   propofol again.  Can give 1X doses of ativan PRN for sedation.
   -This PM attempt retrying weaning to pressure support.
   #. Hypertension:
   -holding home BP meds given hypotension
   -Would monitor BPs today given on steroids
   .
   #Metabolic alkalosis - Over past several days has been hyponatremia and
   hyperkalemic, suggestive of adrenal insufficiency.  Likely b/c of
   chronic steroid use at home for COPD; was on lower dose for last
   several days which could have caused some AI.  Improved electrolytes
   this AM on the higher dose of prednisone suggesting this is improving.
   Some of the metabolic alkalosis is also compensation for chronic
   respiratory acidosis given his COPD.
   -Follow daily lytes
   .
   #. Hyperlipidemia: Continued on Simvastatin
   .
   #. Hypothyroidism: Continued on levothyroxine
   .
   #. Chronic lower back: Continued on Naproxen and Fentanyl
   patch
   .
   #. Gout: Stable. Continued on Allopurinol
   .
   #. Anemia: Baseline Hct 30.  Stable
   .
   FEN:  TF, daily lytes
   .
   PPX:
   -DVT ppx with
   -Bowel regimen
   -Pain management with
   .
   ACCESS: PIV's
   .
   CODE STATUS: FULL, per prior documentation if patient requires
   aggressive life saving measures for 3 days of more, would prefer
   to withdraw care
   .
   EMERGENCY CONTACT: Daughter [**Name2 (NI) **] [**Telephone/Fax (1) 10007**]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-10-21**] 06:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2163-10-21**] 03:56 AM
   PICC Line - [**2163-10-21**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2163-10-22 10:49:00 Physician Attending Progress Note
TITLE: Critical Care Attending Note
   Chief Complaint: Respiratory failure secondary to COPD exacerbation/
   PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BRONCHOSCOPY - BAL
 PICC LINE
continues to spike - pancultured
Abx broadened
 cefepime and cipro started in addition to vanc
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2163-10-21**] 08:00 AM
   Ciprofloxacin - [**2163-10-21**] 10:00 PM
   Cefipime - [**2163-10-22**] 12:37 AM
   Vancomycin - [**2163-10-22**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2163-10-21**] 08:11 PM
   Heparin Sodium (Prophylaxis) - [**2163-10-21**] 08:29 PM
   Famotidine (Pepcid) - [**2163-10-22**] 12:37 AM
   Fentanyl - [**2163-10-22**] 08:18 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2163-10-22**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 70 (70 - 121) bpm
   BP: 104/54(66) {89/45(56) - 117/71(86)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,951 mL
                                                                  1,253 mL
   PO:
                                                                    220 mL
             TF:
                                                                     60 mL
                                                                    105 mL
   IVF:
                                                                  1,571 mL
                                                                    948 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                  1,035 mL
   Urine:
                                                                  1,155 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,796 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.46/53/122/36/12
   Ve: 2.1 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : exp, Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   7.3 g/dL
   334 K/uL
   106 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.2 mEq/L
   10 mg/dL
   93 mEq/L
   130 mEq/L
   24.7 %
   13.8 K/uL
        [image002.jpg]
                            [**2163-10-21**]  12:34 AM
                            [**2163-10-21**]  01:34 AM
                            [**2163-10-21**]  04:56 AM
                            [**2163-10-21**]  05:42 AM
                            [**2163-10-21**]  10:15 PM
                            [**2163-10-22**]  03:09 AM
                            [**2163-10-22**]  03:20 AM
   WBC
   10.2
   13.8
   Hct
   26.3
   24.7
   Plt
   383
   334
   Cr
   0.6
   0.6
   TropT
   0.03
   0.02
   TCO2
   47
   46
   41
   39
   Glucose
   109
   106
   Other labs: PT / PTT / INR:12.4/29.2/1.0, CK / CKMB /
   Troponin-T:74/8/0.02, Differential-Neuts:93.9 %, Lymph:3.4 %, Mono:2.5
   %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   68M h/o COPD on 3L home O2, CAD, lung CA s/p RUL resection,
   tracheomalacia s/p stent presents from OSH with SOB x several days.
 Respiratory Failure:
   -Pnuemonia (LUL infiltrate)/COPD exacerbation
   -Cont to spike
 abx broadened to cefepime, cipro and vancomycin
   -Prednisone for COPD flair, gradual taper
   -secretions remain issue
   -Wean sedation
   -Cont to wean vent. SBT
COPD
   -MDIs
Tracheomalacia/Stent
Anemia
 at baseline hct
   .
   Please see resident note for remainder of plan
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2163-10-21**] 06:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2163-10-21**] 03:56 AM
   PICC Line - [**2163-10-21**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Patient is critically ill
   Total time spent: 35 minutes

2163-10-23 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated!
   - IP: start Mucomyst nebs with albuterol to improve secretions as pt
   had Y stent
   - Feeling anxious in the evening, breathing "fair", ABG 7.44 49 63 34;
   maintained good sats when asleep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2163-10-21**] 08:00 AM
   Cefipime - [**2163-10-22**] 12:37 AM
   Vancomycin - [**2163-10-22**] 08:02 PM
   Ciprofloxacin - [**2163-10-22**] 10:39 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2163-10-22**] 08:18 AM
   Lorazepam (Ativan) - [**2163-10-22**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2163-10-22**] 04:00 PM
   Famotidine (Pepcid) - [**2163-10-22**] 09:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-10-23**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.4
C (95.7
   HR: 85 (70 - 107) bpm
   BP: 115/59(73) {99/41(55) - 130/89(94)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,775 mL
                                                                    117 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
                                                                    121 mL
   IVF:
                                                                  2,285 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    720 mL
   Urine:
                                                                  2,895 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -120 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 4%
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: 7.44/49/63//7
   Ve: 2.1 L/min
   PaO2 / FiO2: 1,575
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   7.3 g/dL
   106 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.2 mEq/L
   10 mg/dL
   93 mEq/L
   130 mEq/L
   24.7 %
   13.8 K/uL
        [image002.jpg]
                            [**2163-10-21**]  12:34 AM
                            [**2163-10-21**]  01:34 AM
                            [**2163-10-21**]  04:56 AM
                            [**2163-10-21**]  05:42 AM
                            [**2163-10-21**]  10:15 PM
                            [**2163-10-22**]  03:09 AM
                            [**2163-10-22**]  03:20 AM
                            [**2163-10-22**]  11:29 AM
                            [**2163-10-22**]  05:29 PM
   WBC
   10.2
   13.8
   Hct
   26.3
   24.7
   Plt
   383
   334
   Cr
   0.6
   0.6
   TropT
   0.03
   0.02
   TCO2
   47
   46
   41
   39
   41
   34
   Glucose
   109
   106
   Other labs: PT / PTT / INR:12.4/29.2/1.0, CK / CKMB /
   Troponin-T:74/8/0.02, Differential-Neuts:93.9 %, Lymph:3.4 %, Mono:2.5
   %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Imaging: CXR
   Microbiology: Gram Stain:
         2+  GRAM POSITIVE ROD(S).
         2+  GRAM POSITIVE COCCI IN PAIRS.
         2+  GRAM NEGATIVE ROD(S).
   Mini BAL:
         4+ PMN
         No growth, legonella negative
   Urine Cx: negative
   Assessment and Plan
   Mr [**Known lastname 3954**] is a 68 yo M with hx of COPD on 3L O2, CAD s/p cardiac
   arrest, lung CA s/p RUL resection/chemo/radiation, trachemalacia s/p
   tracheal stent replacement last week, presents from OSH for several
   days SOB. Found to be in hypercapneic respiratory failure.
   #. Respiratory Distress:   Differential is pneumonia versus COPD.  CXR
   concerning for left upper pneumonia.  Cefepime day 2 in addition to
   cipro and vancomycin day 5 as well as high dose of prednisone 60 mg
   daily w/ taper.  Extubated on 3-4L O2, maintained good sats.
   - continue O2
   - consider teaching of CPAP, has not been able to tolerate in past
   #. Hypertension:
   -holding home BP meds
   -Would monitor BPs today given on steroids
   #. Metabolic alkalosis - Over past several days has been hyponatremia
   and hyperkalemic, suggestive of adrenal insufficiency.  Likely b/c of
   chronic steroid use at home for COPD; was on lower dose for last
   several days which could have caused some AI.  Improved electrolytes
   this AM on the higher dose of prednisone suggesting this is improving.
   Some of the metabolic alkalosis is also compensation for chronic
   respiratory acidosis given his COPD.
   -Follow daily lytes
   #. Hyperlipidemia: Continued on Simvastatin
   #. Hypothyroidism: Continued on levothyroxine
   #. Chronic lower back: Continued on Naproxen and Fentanyl patch
   #. Gout: Stable. Continued on Allopurinol
   #. Anemia: Baseline Hct 30.  Stable
   #. FEN:  TF, daily lytes
   #. PPX:
   -DVT ppx with
   -Bowel regimen
   -Pain management with fentanyl patch
   #. ACCESS: PIV's
   #. CODE STATUS: FULL, per prior documentation if patient requires
   aggressive life saving measures for 3 days of more, would prefer to
   withdraw care
   #. EMERGENCY CONTACT: Daughter [**Name2 (NI) **] [**Telephone/Fax (1) 10007**]
   #. DISPOSITION: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2163-10-21**] 03:56 AM
   PICC Line - [**2163-10-21**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2163-10-23 11:18:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure secondary to COPD exacerbation/
   PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 Successfully extubated
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2163-10-21**] 08:00 AM
   Vancomycin - [**2163-10-22**] 08:02 PM
   Ciprofloxacin - [**2163-10-22**] 10:39 PM
   Cefipime - [**2163-10-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-10-22**] 02:45 PM
   Famotidine (Pepcid) - [**2163-10-22**] 09:23 PM
   Heparin Sodium (Prophylaxis) - [**2163-10-23**] 02:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-10-23**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 108 (84 - 117) bpm
   BP: 132/72(86) {99/41(55) - 138/89(94)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,775 mL
                                                                    211 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
                                                                    121 mL
   IVF:
                                                                  2,285 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    950 mL
   Urine:
                                                                  2,895 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -120 mL
                                                                   -739 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.44/49/63/34/7
   PaO2 / FiO2: 1,575
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : exp,
   Diminished: ), prolonged expiration
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   344 K/uL
   77 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   12 mg/dL
   100 mEq/L
   140 mEq/L
   24.7 %
   11.0 K/uL
        [image002.jpg]
                            [**2163-10-21**]  12:34 AM
                            [**2163-10-21**]  01:34 AM
                            [**2163-10-21**]  04:56 AM
                            [**2163-10-21**]  05:42 AM
                            [**2163-10-21**]  10:15 PM
                            [**2163-10-22**]  03:09 AM
                            [**2163-10-22**]  03:20 AM
                            [**2163-10-22**]  11:29 AM
                            [**2163-10-22**]  05:29 PM
                            [**2163-10-23**]  04:12 AM
   WBC
   10.2
   13.8
   11.0
   Hct
   26.3
   24.7
   24.7
   Plt
   383
   334
   344
   Cr
   0.6
   0.6
   0.6
   TropT
   0.03
   0.02
   TCO2
   47
   46
   41
   39
   41
   34
   Glucose
   109
   106
   77
   Other labs: PT / PTT / INR:11.9/27.8/1.0, CK / CKMB /
   Troponin-T:74/8/0.02, Differential-Neuts:84.9 %, Lymph:9.9 %, Mono:4.7
   %, Eos:0.4 %, Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   68M h/o COPD on 3L home O2, CAD, lung CA s/p RUL resection,
   tracheomalacia s/p stent presents from OSH with SOB x several days.
 Respiratory Failure:
   -successfully extubated
Pnuemonia (LUL infiltrate)/COPD exacerbation
   -SCx polymicrobial - difficult to sort pathogen from colonizers
   -Narrow abx - cipro has been effective in past. If spikes post change
   will need to rebroaden.
   -Prednisone for COPD flair, gradual taper
   -cont secretions though able to expectorate them

COPD
   -MDIs

Tracheomalacia
   -Stent

Anemia
 at baseline hct

Gout
   -cont allopurinol
   Please see resident note for remainder of plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2163-10-21**] 03:56 AM
   PICC Line - [**2163-10-21**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: